US07696231B2
2-nitro-N′-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)benzohydrazide
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3dione in acetic acid was added 2-nitrobenzohydrazide. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 159 mg of the title compound (73%) as a yellow solid in 99.2% purity by HPLC (Rt: 5.67, gradient of 10 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | 2-nitrobenzohydrazide | [N+](=O)([O-])C1=C(C(=O)NN)C=CC=C1 | C7H7N3O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-nitro-N′-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)benzohydrazide | 159 mg, 73% | [N+](=O)([O-])C1=C(C(=O)NN=C2C(NC3=CC=C(C=C23)I)=O)C=CC=C1 | C15H9IN4O4
